US05990116
A) 5-[2-(2,5-Dimethoxyphenyl)ethenyl]-2-acetylamino Benzoic Acid Methylester
4.1 mmol of n-butyllithium (0.4 ml of 1.6 M solution in hexane) are added at -40° to a solution of 412 mg of diisopropylamine in 30 ml of dry tetrahydrofuran. After stirring for 30 minutes 672 mg of 2,5-dimethoxybenzyl-triphenylphosphonium bromide are added at this temperature. The suspension is stirred for another 30 minutes, cooled to -70° and treated with 300 mg of 2-acetylamino-5-formyl-benzoic acid methylester in 8 ml of absolute tetrahydrofuran. The mixture is stirred for one hour at -70° and for two hours at room temperature and then poured onto aqueous ammonium chloride solution. Extraction with ethyl acetate and evaporation yields a crude product, which is subjected to silica gel chromatography (hexane/ethyl acetate =9/1) to obtain the title compound as a mixture of the E- and Z-isomers.

reactant | n-butyllithium | 4.1 mmol, 1.6 M, 0.4 ml | C(CCC)[Li]
reactant | diisopropylamine | 412 mg | C(C)(C)NC(C)C | C6H15N
reactant | 2,5-dimethoxybenzyl-triphenylphosphonium bromide | 672 mg | [Br-].COC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C=C1)OC
reactant | 2-acetylamino-5-formyl-benzoic acid methylester | 300 mg | COC(C1=C(C=CC(=C1)C=O)NC(C)=O)=O | C11H11NO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 5-[2-(2,5-Dimethoxyphenyl)ethenyl]-2-acetylamino Benzoic Acid Methylester | COC(C1=C(C=CC(=C1)C=CC1=C(C=CC(=C1)OC)OC)NC(C)=O)=O | C20H21NO5
